US08420640B2
A solution of (4-(4-amino-3-(phenylamino)phenyl)piperazin-1-yl)(phenyl)methanone (0.7 g, 1.9 mmol), acetyl chloride (0.13 ml, 1.9 mmol) and potassium carbonate (0.31 g, 2.3 mmol) in 20 ml THF was stirred at 0° C. for 2 hours. The mixture was washed with water (2×10 ml) and dried over anhydrous sodium sulfate before removing the solvents. N-(4-(4-benzoylpiperazin-1-yl)-2-(phenylamino)phenyl)acetamide (0.40 g, 51%) was obtained after flash column chromatograph (ethyl acetate). 1H NMR (500 MHz, CDCl3) δ (ppm) 2.15 (s, 3H), 3.03-3.95 (m, 8H), 5.93 (s, 1H), 6.66 (dd, J=2.6, 8.8 Hz, 1H), 6.92 (m, 4H), 7.26 (m, 2H), 7.44 (s, 1H), 7.46 (m, 5H), 7.53 (d, J=8.8 Hz, 1H). 13C NMR (125 MHz, CDCl3): δ (ppm) 24.5, 50.2, 110.8, 112.6, 117.3, 121.0, 123.9, 125.3, 127.6, 129.0, 129.9, 130.0, 130.1, 130.3, 136.0, 137.0, 144.6, 150.0, 169.6, 170.9.

reactant | (4-(4-amino-3-(phenylamino)phenyl)piperazin-1-yl)(phenyl)methanone | 1.9 mmol, 0.7 g | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)C1=CC=CC=C1)NC1=CC=CC=C1 | C23H24N4O
reactant | acetyl chloride | 1.9 mmol, 0.13 ml | C(C)(=O)Cl | C2H3ClO
reactant | potassium carbonate | 2.3 mmol, 0.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | N-(4-(4-benzoylpiperazin-1-yl)-2-(phenylamino)phenyl)acetamide | 0.40 g, 51% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC(=C(C=C1)NC(C)=O)NC1=CC=CC=C1 | C25H26N4O2
